US06248755B1
Step A: 2-Amino-N-(1-benzyl-piperidin-4-yl)benzamide
To a solution of 1.0 g 2-aminobenzoic acid and 1.39 g of 4-amino-1-benzylpiperidine in 10 mL of methylene chloride was added 1.18 g of HOBT followed by 2.10 g of EDC. After stirring at rt for 6 hours, the reaction mixture was diluted with methylene chloride. The organic phase was washed with brine and dried over anhydrous MgSO4. Concentration under reduced pressure followed by flash chromatography eluting with 9% EtOAc in hexane, 50% EtOAc in hexane and 10% MeOH in EtOAc afforded 309 mg of the title compound as a viscous oil.

reactant | 2-aminobenzoic acid | 1.0 g | NC1=C(C(=O)O)C=CC=C1 | C7H7NO2
reactant | 4-amino-1-benzylpiperidine | 1.39 g | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | HOBT | 1.18 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 2.10 g
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-Amino-N-(1-benzyl-piperidin-4-yl)benzamide | 309 mg | NC1=C(C(=O)NC2CCN(CC2)CC2=CC=CC=C2)C=CC=C1 | C19H23N3O
